US09416135B2
To a 1 L round-bottom flask containing (R)-benzyl 2-isopropyl-3-oxopiperazine-1-carboxylate (50 g, 0.181 mol) in MeOH (800 mL) was added Pd/C (dry, w/w 15%, 5 g). The mixture was stirred at rt under H2 (1 atm) overnight. When TLC and LCMS showed that the starting material was consumed, (Boc)2O (76.74 g, 0.352 mol) was added to the reaction mixture, and the mixture was stirred at rt overnight until the intermediate (R)-3-isopropylpiperazin-2-one was consumed. The mixture was filtered and concentrated under vacuum to give a residue. The residue was purified by column chromatography on silica gel (eluting with PE:EtOAc=3:1) to give (R)-tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate as a white solid (26 g, yield 61%. For (R)-3-isopropyl-piperazin-2-one: LC-MS m/z 143.2 [M+H]+. 1H NMR (HCl salt, CD3OD 400 MHz): δ 3.95 (d, J=3.6 Hz, 1H), 3.65-3.39 (m, 4H), 2.63-2.54 (m, 1H), 1.15 (d, J=6.8 Hz, 3H), 1.09 (d, J=7.2 Hz, 3H). For (R)-tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate: LC-MS m/z 186.9 [M−56+H]+. 1H NMR (DMSO-d6 400 MHz): δ 7.93 (s, 1H), 4.02-3.82 (m, 2H), 3.17-3.15 (m, 3H), 2.16 (s, 1H), 1.41 (s, 9H), 0.98 (d, J=6.8 Hz, 3H), 0.89 (d, J=6.4 Hz, 3H).

reactant | (R)-benzyl 2-isopropyl-3-oxopiperazine-1-carboxylate | 0.181 mol, 50 g | C(C)(C)[C@H]1N(CCNC1=O)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
reactant | (Boc)2O | 0.352 mol, 76.74 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-3-isopropylpiperazin-2-one | C(C)(C)[C@@H]1C(NCCN1)=O | C7H14N2O
solvent | MeOH | 800 mL | CO | CH4O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | (R)-tert-butyl 2-isopropyl-3-oxopiperazine-1-carboxylate | yield 61% | C(C)(C)[C@H]1N(CCNC1=O)C(=O)OC(C)(C)C | C12H22N2O3
